US05773428
Sodium hydride (1.52 g, (60%)) and 6 g of 2-quinoline thiol were stirred together at 0° C. in 50 mL DMF. After the initial H2 evolution had subsided, the mixture was stirred at room temperature for 21/2 hours. The mixture was then cooled to 0° C. and 2-(ethoxy) (methanesulfonyloxymethyl)phosphinoyl-methyl-4-methylpentanoic acid ethyl ester (12.8 g) in 10 mL DMF was added via cannula and the resulting mixture was then stirred for 18 hours, slowly warming to room temperature. The DMP was removed by evaporation, the residue dissolved in 50 mL ethyl acetate and washed with 50 mL H2O (2×), brine (50 mL), dried with MgSO4 and evaporated to a yellow semi-solid. Purification by flash chromatography using 10% ethyl acetate/hexane to 80% ethyl acetate/hexane for the elution yielded 10 g of 2-(ethoxy) (quinolin-2-ylthiomethyl)-phosphinoyl-methyl-4-methylpentanoic acid ethyl ester (Rf 0.35 80% ethyl acetate/hexane), MS: 424 (MH+).

reactant | Sodium hydride | 1.52 g | [H-].[Na+]
reactant | 2-quinoline thiol | 6 g | N1=C(C=CC2=CC=CC=C12)S | C9H7NS
reactant | 2-(ethoxy) (methanesulfonyloxymethyl)phosphinoyl-methyl-4-methylpentanoic acid ethyl ester | 12.8 g | C(C)OC(C(C(C(C)C)P(=O)COS(=O)(=O)C)(OCC)C)=O | C13H27O7PS
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(ethoxy) (quinolin-2-ylthiomethyl)-phosphinoyl-methyl-4-methylpentanoic acid ethyl ester | 10 g, 80% | C(C)OC(C(C(C(C)C)([PH2]=O)CSC1=NC2=CC=CC=C2C=C1)(OCC)C)=O | C21H30NO4PS
